US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyridin-3-ylmethyl-amino)-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one and Methyl-pyridin-3-ylmethyl-amine following General Procedure B.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCCC)=O)C=C1)C(F)(F)F | C22H19ClF3N3OS2
reactant | Methyl-pyridin-3-ylmethyl-amine | CNCC=1C=NC=CC1 | C7H10N2
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyridin-3-ylmethyl-amino)-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(CC=2C=NC=CC2)C)=O)C=C1)C(F)(F)F | C26H19ClF3N5OS
